US07754737B2
Sat'd aq NaHCO3 (15 mL) was added to a solution of (R)-tert-butyl 2-(hydroxymethyl)-morpholine-4-carboxylate (1.09 g, 5.0 mmol) in acetone (50 mL), stirred and maintained at 0° C. Solid NaBr (0.1 g, 1 mmol) and TEMPO (0.015 g, 0.1 mmol) were added. Trichloroisocyanuric acid (2.32 g, 10.0 mmol) was then added slowly within 20 min at 0° C. After addition the mixture was warmed to rt and stirred overnight. 2-Propanol (3 mL) was added, and the resulting solution was stirred at rt for 30 min, filtered through a pad of Celite, concentrated under vacuum, and treated with sat'd aq Na2CO3 (15 mL). The aqueous solution was washed with EtOAc (5 mL), acidified with 6 N HCl, and extracted with EtOAc (5×10 mL). The combined organic layers were dried over Na2SO4 and the solvent was removed to give (R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid (1.07 g, 92%) as a white solid. 1H NMR (400 MHz, CDCl3): 4.20 (br, 1H), 4.12 (d, 1H), 4.02 (d, 1H), 3.84 (m, 1H), 3.62 (m, 1H), 3.04 (m, 2H), 1.44 (s, 9H); MS m/z 232 (M+H+).

reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
reactant | (R)-tert-butyl 2-(hydroxymethyl)-morpholine-4-carboxylate | 5.0 mmol, 1.09 g | OC[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
reactant | NaBr | 1 mmol, 0.1 g | [Na+].[Br-]
reactant | Trichloroisocyanuric acid | 10.0 mmol, 2.32 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | acetone | 50 mL | CC(=O)C | C3H6O
catalyst | TEMPO | 0.1 mmol, 0.015 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | 2-Propanol | 3 mL | CC(C)O | C3H8O
product | (R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | 1.07 g, 92% | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)O | C10H17NO5
